US04925879
2-[1-(4-Chlorophenyl)cyclobutyl]-2,2-dimethoxyethanol (1.48 g) and then methyl iodide (1.86 g) were added to a mixture of powdered potassium hydroxide (1.23 g) and dry dimethylsulphoxide (10 ml) which had been stirred for 5 minutes. The mixture was stirred for 30 minutes and was then poured into water (100 ml). The resulting mixture was acidified with concentrated sulphuric acid and extracted with dichloromethane. The extract was washed with water and dried and then evaporated to give 1-[1-(4-chlorophenyl)cyclobutyl]-2-methoxyethanone as an oil.

reactant | 2-[1-(4-Chlorophenyl)cyclobutyl]-2,2-dimethoxyethanol | 1.48 g | ClC1=CC=C(C=C1)C1(CCC1)C(CO)(OC)OC | C14H19ClO3
reactant | methyl iodide | 1.86 g | CI | CH3I
reactant | potassium hydroxide | 1.23 g | [OH-].[K+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-[1-(4-chlorophenyl)cyclobutyl]-2-methoxyethanone | ClC1=CC=C(C=C1)C1(CCC1)C(COC)=O | C13H15ClO2
